US05068272
4-[3-[ethyl[3-(propylsulfinyl)propyl]amino]-2-hydroxypropoxy]-benzonitrile
2.45 g of 4-[3-[ethyl[3-(propylthio)propyl]amino]-2-hydroxypropoxy]-benzonitrile and 1.4 g p-toluenesulfonic acid were mixed in 50 ml of ethanol. The mixture was cooled to -10° C. and 1.7 g of m-chloroperbenzoic acid was added in small protions. The mixture was stirred for 0.5 hour at -10° C. and one hour at room temperature and then evaporated. The residue was dissolved in dichloromethane and washed with three portions of sodium carbonate and twice with water and thereafter dried over sodium sulfate, filtrated and evaporated. The residue, 2.3 g yellow oil, was purified by column chromatography. Yield: 1.4 g of the title compound.

reactant | 4-[3-[ethyl[3-(propylthio)propyl]amino]-2-hydroxypropoxy]-benzonitrile | 2.45 g | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCSCCC | C18H28N2O2S
reactant | p-toluenesulfonic acid | 1.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | m-chloroperbenzoic acid | 1.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[3-[ethyl[3-(propylsulfinyl)propyl]amino]-2-hydroxypropoxy]-benzonitrile | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCS(=O)CCC | C18H28N2O3S
